### ISSUE TITLE
prove ProbMethodCombinatorics.card_filter_abs_le_exp_mul

### ISSUE THREAD

**Issue by yidiq7** [yidiq7/ProbMethodCombinatorics#22]
---
choir-task-version: 1
type: prove
target_file: ProbMethodCombinatorics/Chernoff.lean
target_decl: ProbMethodCombinatorics.card_filter_abs_le_exp_mul
project_ref:
  repo: yidiq7/ProbMethodCombinatorics
  commit: c943f93e4a29fdeb7e564d0705a16cfcf498092b
  toolchain: leanprover/lean4:v4.33.0
deps: []
blueprint_ref: chernoff_abs
---

**Two-sided Chernoff bound** — Zhao, Corollary 5.0.3
(`sources/mit18_226_f22_lec_full.pdf`, printed p. 70 = PDF p. 76):
`ℙ(|S| ≥ λ√n) ≤ 2 exp(-λ²/2)`.

**Route.** `{x | λ√n ≤ |S x|} ⊆ {x | λ√n ≤ S x} ∪ {x | λ√n ≤ -S x}`, so
`Finset.card_union_le` reduces this to two copies of `card_filter_le_exp_mul` (task #21).
The second copy is the first one transported along the involution `x ↦ fun i => !(x i)`,
under which `∑ i, toSign (x i)` negates.

This is where stating the chapter as counting pays off: the symmetry is a bijection of a
`Finset` — `Finset.card_bij` or `Finset.card_nbij'` with the explicit involution — rather
than an argument about distributions. `toSign_not : toSign (!b) = -toSign b` is the one-line
lemma to prove first (it may be worth adding next to `toSign` as its own declaration).

**`card_filter_le_exp_mul` is stated but not yet proved** — task #21. Use its statement; do
not prove it here.

Medium: short, but the bijection bookkeeping is real. A good second task after #21.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 461865dad8921a62
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: 461865dad8921a62
```

_Lease refreshed 2026-09-13T02:31:47+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
Submitted in https://github.com/yidiq7/ProbMethodCombinatorics/pull/40.

**Comment by yidiq7** [comment]
## choir-defect — `card_filter_abs_le_exp_mul` is false as stated (at `n = 0`)

I hit this while working #21, whose one-sided `card_filter_le_exp_mul` has the same defect; the
full report and a ready-to-drop proof of the `0 < n` case are in
[my comment there](https://github.com/yidiq7/ProbMethodCombinatorics/issues/21#issuecomment-5650325968).
I do not hold this task — posting so whoever claims it does not spend a cycle discovering it.

At `n = 0` the type `Fin 0 → Bool` has one element, `Real.sqrt ((0 : ℕ) : ℝ) = 0` and the empty
sum is `0`, so the filter predicate is `0 ≤ |0|` and the left side is `1`. The right side is
`2 * Real.exp (-lam ^ 2 / 2)`, which is `< 1` as soon as `lam > √(2 log 2) ≈ 1.177`. Taking
`lam = 2` gives `1 ≤ 2 * exp (-2) ≈ 0.271`.

Machine-checked at the pinned commit, as a hypothesis rather than via the declaration's own
`sorry`, so it shows the proposition itself is contradictory:

```lean
import ProbMethodCombinatorics.Chernoff
open Finset ProbMethodCombinatorics

example (h : (((univ : Finset (Fin 0 → Bool)).filter
            fun x => (2 : ℝ) * Real.sqrt ((0 : ℕ) : ℝ) ≤ |∑ i, toSign (x i)|).card : ℝ)
          ≤ 2 * Real.exp (-(2 : ℝ) ^ 2 / 2) * 2 ^ (0 : ℕ)) : False := by
  have hcard : (((univ : Finset (Fin 0 → Bool)).filter
      fun x => (2 : ℝ) * Real.sqrt ((0 : ℕ) : ℝ) ≤ |∑ i, toSign (x i)|).card : ℝ) = 1 := by
    norm_num
  rw [hcard, pow_zero, mul_one] at h
  have h3 : (3 : ℝ) ≤ Real.exp 2 := by
    have := Real.add_one_le_exp (2 : ℝ)
    linarith
  have hpos : (0 : ℝ) < Real.exp 2 := Real.exp_pos 2
  have hinv : Real.exp (-(2 : ℝ) ^ 2 / 2) = (Real.exp 2)⁻¹ := by
    rw [← Real.exp_neg]; norm_num
  rw [hinv] at h
  have key : (Real.exp 2)⁻¹ * Real.exp 2 = 1 := inv_mul_cancel₀ (ne_of_gt hpos)
  nlinarith [h, h3, hpos, key]
```

The same two repairs apply as for #21: add `(hn : 0 < n)`, or make the filter strict
(`lam * Real.sqrt n < |∑ i, toSign (x i)|`), which is true for every `n`. Whichever is chosen
for #21 should be chosen here, since the two-sided bound is normally derived from the one-sided
one and the hypotheses need to line up.

**Comment by yidiq7** [comment]
**choir-defect** — flagging this on a closed/`choir/done` task, because the statement it
landed is false and nothing else will revisit it.

While working #21 I found that `card_filter_le_exp_mul` is false at `n = 0` for every
`lam > 0`. `card_filter_abs_le_exp_mul` inherits that defect: it is itself **false at
`n = 0`** for any `lam` with `2 * exp (-lam ^ 2 / 2) < 1` (roughly `lam > 1.18`). It
currently type-checks only because it applies the still-unproved `card_filter_le_exp_mul`.

Machine-checked, `#print axioms` clean (`[propext, Classical.choice, Quot.sound]`, no
`sorryAx`, so it does not lean on the unproved lemma):

```lean
theorem corollary_false_at_zero :
    ¬ ((((univ : Finset (Fin 0 → Bool)).filter
        fun x => (3 : ℝ) * Real.sqrt ((0 : ℕ) : ℝ) ≤ |∑ i, toSign (x i)|).card : ℝ)
      ≤ 2 * Real.exp (-(3 : ℝ) ^ 2 / 2) * 2 ^ (0 : ℕ)) := by ...
```

At `n = 0` the sum is empty and `lam * Real.sqrt 0 = 0 ≤ |0|`, so the filter is all of
`univ` (card 1), while the bound is `2 * exp (-lam ^ 2 / 2) < 1`.

Full analysis and the suggested repair — add `(hn : 0 < n)` to **both** statements — are in
https://github.com/yidiq7/ProbMethodCombinatorics/issues/21#issuecomment-5651325498

Threading `hn` here is mechanical: the existing proof uses it only to pass to
`card_filter_le_exp_mul` at `ProbMethodCombinatorics/Chernoff.lean:72`; the `x ↦ !x`
involution argument is unaffected.
